US06525220B2
N-(5-Methoxy-2-nitrophenyl)-N-methylcarbamic acid t-butyl ester
To a solution at 0° C. of N-(5-methoxy-2-nitrophenyl)carbamic acid t-butyl ester (5.5 g) in dimethylformamide (35 ml) was added sodium hydride (0.9 g, 60% dispersion in mineral oil) and the mixture was stirred at 0° C. for 1 hour. A solution of dimethyl sulfate (2.2 ml) in dimethylformamide (5.5 ml) was slowly added dropwise at 0° C. and the mixture was stirred at the same temperature for 0.5 hours. At the end of this time, to the reaction mixture was slowly added water (55 ml) and the mixture was extracted with toluene (66 ml). The extract was washed with water and concentrated in vacuo to give the desired compound (5.8 g, yield 100%).

reactant | N-(5-methoxy-2-nitrophenyl)carbamic acid t-butyl ester | 5.5 g | C(C)(C)(C)OC(NC1=C(C=CC(=C1)OC)[N+](=O)[O-])=O | C12H16N2O5
reactant | sodium hydride | 0.9 g | [H-].[Na+]
reactant | dimethyl sulfate | 2.2 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | water | 55 ml | O | H2O
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5.5 ml | CN(C=O)C | C3H7NO
product | N-(5-Methoxy-2-nitrophenyl)-N-methylcarbamic acid t-butyl ester | 5.8 g, yield 100% | C(C)(C)(C)OC(N(C)C1=C(C=CC(=C1)OC)[N+](=O)[O-])=O | C13H18N2O5
